US09126999B2
Example ER-897034 was prepared in two steps from 4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinic acid (25 mg, 0.056 mmol) and commercially available tert-butyl piperazine-1-carboxylate (31 mg, 0.167 mmol) in a manner similar to that of example D-6 to afford intermediate tert-butyl 4-(4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinoyl)piperazine-1-carboxylate (15 mg, 0.024 mmol, 44% yield). Then, this intermediate (13 mg, 0.021 mmol) was treated with HCl in a manner similar to that of example ER-897560 to afford the desired product ER-897034 (12.2 mg, 98% yield).

reactant | 4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinic acid | 0.056 mmol, 25 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C2=CC(=NC=C2)C(=O)O | C21H19F3N4O4
reactant | tert-butyl piperazine-1-carboxylate | 0.167 mmol, 31 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 4-(4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinoyl)piperazine-1-carboxylate | 0.024 mmol, 15 mg, 44% yield | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C2=CC(=NC=C2)C(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C30H35F3N6O5
